US05654318
(4aS,7aS)-1-t-Butoxycarbonyloctahydropyrrolo[3.4-b]pyridine
In 130 ml of ethanol was dissolved 3.86 g of (4aS,7aS) -6-benzyl-1-t-butoxycarbonyloctahydropyrrolo[3.4-b]pyridine, and 1 g of 5% palladium-on-carbon was added thereto. While the reaction vessel was heated by a tungsten lamp, hydrogenation was conducted under pressurized hydrogen gas atmosphere of 4 kg/cm2 for 4 hours. After completion of the reaction, the catalyst was removed by filtration, and the filtrate was concentrated to give 2.75 g of the titled compound.

reactant | (4aS,7aS) -6-benzyl-1-t-butoxycarbonyloctahydropyrrolo[3.4-b]pyridine | 3.86 g | C(C1=CC=CC=C1)N1C[C@H]2N(CCC[C@H]2C1)C(=O)OC(C)(C)C | C19H28N2O2
solvent | ethanol | 130 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | (4aS,7aS)-1-t-Butoxycarbonyloctahydropyrrolo[3.4-b]pyridine | 2.75 g | C(C)(C)(C)OC(=O)N1[C@H]2[C@@H](CCC1)CNC2 | C12H22N2O2
